US04965398
A solution of an (S)-binaphthol-dichlorotitanium complex (0.1 mmole) which had been prepared in the same manner as in Example 1 was cooled to -10° C. and there was added thereto 96 mg (1 mmole) of methylenecyclohexane and 88 mg (1 mmole) of methyl glyoxylate, followed by reaction for 8 hours. Then, 10 ml of an aqueous sodium hydrogen carbonate solution was added to terminate the reaction. The reaction mixture was filtered through Celite and extracted with two 20 ml portions of diethyl ether and two 20 ml portions of ethyl acetate, and the extract was dried over anhydrous magnesium sulfate. Thereafter, the solvents were distilled off, and hexane was added to the residue to crystallize binaphthol. The remaining solution was purified by mean of silica gel column chromatography to obtain 0.13 g of methyl (S)-2-hydroxy-3-(1-cyclohexenyl)propanoate. The yield was 73%.

reactant | methylenecyclohexane | 1 mmole, 96 mg | C=C1CCCCC1 | C7H12
reactant | methyl glyoxylate | 1 mmole, 88 mg | C(C=O)(=O)OC | C3H4O3
solvent | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
product | methyl (S)-2-hydroxy-3-(1-cyclohexenyl)propanoate | 0.13 g, yield was 73% | O[C@H](C(=O)OC)CC1=CCCCC1 | C10H16O3
